US07329668B2
Part A: 3-(2-phenoxyethoxy)-1H-pyrazol-5-amine
A mixture of 2-phenoxyethanol (56.1 g, 406 mmol), 3-amino-1H-pyrazol-5-ol (8.0648 g, 81.4 mmol) and TsOH (30.96 g, 162.8 mmol) was stirred at 130° C. under vacuum for 11 h. After cooled down to room temperature, the solid was washed with MeCN (200 mL), then treated with 6% aqueous NaHCO3 solution (500 mL). The suspension was filtered, and the solid collected was dissolved in EtOAc (100 mL), dried over MgSO4, filtered and concentrated, giving the title compound (5.4734 g, 30.7% yield). ESI m/z=220.19 [(M+1)+; calcd for C11H13N3O2+H: 220.11].

reactant | 2-phenoxyethanol | 406 mmol, 56.1 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | 3-amino-1H-pyrazol-5-ol | 81.4 mmol, 8.0648 g | NC1=NNC(=C1)O | C3H5N3O
reactant | TsOH | 162.8 mmol, 30.96 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 3-(2-phenoxyethoxy)-1H-pyrazol-5-amine | 5.4734 g, 30.7% yield | O(C1=CC=CC=C1)CCOC1=NNC(=C1)N | C11H13N3O2
